US05650092
Preparation of (4-difluoromethoxyphenyl) trans-4-n-heptyl-4-silacyclohexanecarboxylate
The general procedure of Example 3 was repeated using 4-difluoromethoxyphenol and 4-n-heptyl-4-phenyl-4-silacyclohexanecarboxylic acid, thereby obtaining the intended product.

reactant | 4-difluoromethoxyphenol | FC(OC1=CC=C(C=C1)O)F | C7H6F2O2
reactant | 4-n-heptyl-4-phenyl-4-silacyclohexanecarboxylic acid | C(CCCCCC)[Si]1(CCC(CC1)C(=O)O)C1=CC=CC=C1 | C19H30O2Si
product | (4-difluoromethoxyphenyl) trans-4-n-heptyl-4-silacyclohexanecarboxylate | C(CCCCCC)[Si@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)OC(F)F | C20H30F2O3Si
